US08372842B2
A solution of 5-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol (450 mg, 1.55 mmol) in DMF (5 mL) was added dropwise to a suspension of sodium hydride (60% dispersion in mineral oil, 74.5 mg, 1.86 mmol) in DMF (5 mL) at room temperature. The mixture was stirred at 40° C. for 30 minutes. The resulting solution was cooled to room temperature and treated with 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (666 mg, 1.86 mmol). The reaction mixture was stirred at room temperature for 1 hour. Next, the solid tert-butyl piperazine-1-carboxylate (636 mg, 3.42 mmol) was added in 2 portions, and the mixture was stirred at 80° C. for 1.5 hours. The mixture was then allowed to cool to room temperature for 18 hours. Saturated NH4Cl solution (30 mL) and water (15 mL) were added, and the mixture was extracted with EtOAc (100 mL). The organic layer was washed with half saturated brine (2×20 mL), dried (MgSO4), filtered, and concentrated in vacuo. The resulting residue was purified by flash chromatography on silica gel (Biotage Flash 40 S+) eluting with 15-20%) EtOAc/hexane (step gradient) to provide tert-butyl 4-(5-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (433 mg, 0.946 mmol, 60.9% yield) as a solid after drying under high vacuum for 18 hours. LCMS (APCI+) m/z 458.1, 460 (M+H)+.

reactant | 5-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-ol | 1.55 mmol, 450 mg | ClC1=C(C2=C(N=C1)N(N=C2)CC2=CC=C(C=C2)OC)O | C14H12ClN3O2
reactant | sodium hydride | 1.86 mmol, 74.5 mg | [H-].[Na+]
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 1.86 mmol, 666 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | tert-butyl piperazine-1-carboxylate | 3.42 mmol, 636 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
product | tert-butyl 4-(5-chloro-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.946 mmol, 433 mg, 60.9% yield | ClC=1C(=C2C(=NC1)N(N=C2)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C23H28ClN5O3
